US08563723B2
N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine
40.89 g 1-Ethyl-2-methyl-isothiourea hydroiodide was dissolved in 150 mL pyridine at 40° C. Subsequently, 20.00 g 2,3-diaza-spiro[4.4]non-2-ene was added and the mixture was stirred overnight under reflux. The mixture was cooled to 60° C. and concentrated under reduced pressure, and the orange residue was taken up in DCM (250 mL). The organic phase was extracted 3 times with water, dried over Na2SO4 and evaporated under reduced pressure. Residual pyridine was removed by azeotropic destillation with water under reduced pressure at 60° C., and residual water was removed by azeotropic destillation with isopropanol under reduced pressure at 60° C. This yielded 31.5 g of a yellow/brown oil containing ˜80% of anticipated product which was used in subsequent steps without further purification. 1H NMR (400 MHz, CDCl3) δ 1.35 (t, J=7.22 Hz, 3H), 1.57-1.99 (m, 8H), 3.60 (q, J=7.22 Hz, 2H), 4.04 (s, 2H), 7.03 (s, 1H) [guanidine NH2 invisible].

reactant | 1-Ethyl-2-methyl-isothiourea hydroiodide | 40.89 g | I.C(C)NC(SC)=N
reactant | 2,3-diaza-spiro[4.4]non-2-ene | 20.00 g | C1N=NCC12CCCC2 | C7H12N2
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine | C(C)NC(=N)N1CC2(C=N1)CCCC2 | C10H18N4
